US04874773
Preparation of 3-aminocrotonic cyclopentylamide:
Acetoacetic cyclopentylamide (169.1 g, 1.00 mole) is dissolved in ethanol (100 ml) and thereto is passed ammonia gas, while the temperature is controlled below 30° C. by cooling with a water bath. After passing ammonia gas for about 3 hours, colorless crystals precipitate. The reaction mixture is allowed to stand at 0° C. overnight. The precipitates are separated by filtration and washed with diethyl ether to give the title compound (140.4 g, yield 85.6%) as colorless needles, m.p. 138°-139° C.

reactant | Acetoacetic cyclopentylamide | 1.00 mole, 169.1 g | C1(CCCC1)NC(CC(=O)C)=O | C9H15NO2
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-aminocrotonic cyclopentylamide | 140.4 g, yield 85.6% | C1(CCCC1)NC(\C=C(\C)/N)=O | C9H16N2O
